US06583135B2
Preparation of tert-Butyl 7,8-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate
A solution of tert-butyl 7,8-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (3.0 g, 6.8 mmol) in dry THF (30 mL) was cooled to 0° C. Then, LiBH4 (0.74 g, 34 mmol) was added and the reaction was allowed to warm slowly to rt. Additional LiBH4 (0.30 g, 14 mmol) was added after 24 h. After another 7 h, the reaction was diluted with H2O (75 mL) followed by addition of 10% aqueous NaOH and extraction with EtOAc (3×100 mL). The combined organic extracts were washed with brine, dried over Na2SO4, decanted, and concentrated. The crude product was purified by column chromatography (Biotage, 40M, SIM) with heptane/EtOAc (1:1) followed by crystallization from EtOAc/heptane gave 1.7 g (64%) of a white solid: mp 149.0-149.5° C.; IR (diffuse reflectance) 3420, 2974, 1665, 1482, 1468, 1445, 1414, 1365, 1334, 1240, 1220, 1168, 1151, 1122, 900 cm−1; MS (EI) m/z 398 (M+), 398, 342, 298, 270, 268, 258, 256, 212, 57, 56; Anal. Calcd for C19H24Cl2N2O3: C, 57.15; H, 6.06; N, 7.01; found: C, 57.31; H, 6.10; N, 6.98.

reactant | tert-butyl 7,8-dichloro-6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 6.8 mmol, 3.0 g | ClC1=C(C=CC=2C3=C(N(C12)CC(=O)OCC)CCN(CC3)C(=O)OC(C)(C)C)Cl | C21H26Cl2N2O4
reactant | LiBH4 | 34 mmol, 0.74 g | [Li+].[BH4-]
reactant | LiBH4 | 14 mmol, 0.30 g | [Li+].[BH4-]
reactant | NaOH | [OH-].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | H2O | 75 mL | O | H2O
product | tert-Butyl 7,8-Dichloro-6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.7 g, 64% | ClC1=C(C=CC=2C3=C(N(C12)CCO)CCN(CC3)C(=O)OC(C)(C)C)Cl | C19H24Cl2N2O3
